US08541421B2
To a solution of 2-amino-4,5-dimethylthiophene-3-carbonitrile (1.52 g, 10.0 mmol) in 1.4-dioxane (20 mL) was added benzoylisothiocyanate (1.63 g, 10.0 mmol). The reaction mixture was then stirred at room temperature under nitrogen overnight. The precipitation was collected by filtration, washed with EtOAc/Hexanes (1:4), and dried under vacuum overnight to give N-(3-Cyano-4,5-dimethylthiophen-2-ylcarbamothioyl)benzamide as a white solid. 1H NMR (400 MHz, CDCl3) δ2.23 (s, 3H), 2.31 (s, 3H), 7.58-7.54 (m, 2H), 7.68-7.66 (m, 1H), 7.94 (d, J=7.2 Hz, 2H), 9.13 (bs, 1H). MS 316 (MH+).

reactant | 2-amino-4,5-dimethylthiophene-3-carbonitrile | 10.0 mmol, 1.52 g | NC=1SC(=C(C1C#N)C)C | C7H8N2S
reactant | benzoylisothiocyanate | 10.0 mmol, 1.63 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | 1.4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(3-Cyano-4,5-dimethylthiophen-2-ylcarbamothioyl)benzamide | C(#N)C1=C(SC(=C1C)C)NC(=S)NC(C1=CC=CC=C1)=O | C15H13N3OS2
